US06569849B1
A solution containing 5-propargyl-10,11-dihydro-5H-dibenzo[b,f]azepine (2.45 g, 10.5 mmol, prepared similarly as described in U.S. Pat. No. 3,354,178 (1967)), (R)-3-piperidinecarboxylic acid ethyl ester (1.7 g, 10.8 mmol), paraformaldehyde (0.65 g) and a trace of cuprous chloride in dioxane (25 ml) was heated at reflux temperature for 5 h and left standing overnight. The mixture was filtered and the solvent evaporated. The remaining oil was purified by column chromatography on silica gel (40 g) using chloroform as eluent, affording 3.5 g (83%) of (R)-1-(4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-butyn-1-yl)-3-piperidinecarboxylic acid ethyl ester.

reactant | 5-propargyl-10,11-dihydro-5H-dibenzo[b,f]azepine | C(C#C)N1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H15N
reactant | (R)-3-piperidinecarboxylic acid ethyl ester | 10.8 mmol, 1.7 g | C(C)OC(=O)[C@H]1CNCCC1 | C8H15NO2
reactant | paraformaldehyde | 0.65 g | C=O | CH2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (R)-1-(4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-butyn-1-yl)-3-piperidinecarboxylic acid ethyl ester | 3.5 g, 83% | C(C)OC(=O)[C@H]1CN(CCC1)CC#CCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C26H30N2O2
